US06759414B2
Preparation of 5-Carboxy-N-(5-chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylmethyl)amino]benzamide Trihydrochloride
A solution of N-(5-chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylmethyl)amino]-5-methoxycarbonylbenzamide (0.50 g, 1.1 mmol) in 1:1:1 methanol:THF:water was treated with barium hydroxide octahydrate (3.6 g, 11 mmol). After 3 days, the mixture was treated with 5 N HCl and concentrated under reduced pressure until precipitation resulted. The mixture was filtered affording 250 mg (52%) of the title compound as a hydrochloride salt.

reactant | N-(5-chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylmethyl)amino]-5-methoxycarbonylbenzamide | 1.1 mmol, 0.50 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)C(=O)OC)NCC1CCN(CC1)C(C)C)=O | C23H29ClN4O3
reactant | methanol | CO | CH4O
reactant | barium hydroxide octahydrate | 11 mmol, 3.6 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | HCl | 5 N | Cl | ClH
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 5-Carboxy-N-(5-chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylmethyl)amino]benzamide Trihydrochloride | 250 mg, 52% | Cl.Cl.Cl.C(=O)(O)C=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NCC1CCN(CC1)C(C)C | InChI=1S/C22H27ClN4O3.3ClH/c1-14(2)27-9-7-15(8-10-27)12-24-19-5-3-16(22(29)30)11-18(19)21(28)26-20-6-4-17(23)13-25-20;;;/h3-6,11,13-15,24H,7-10,12H2,1-2H3,(H,29,30)(H,25,26,28);3*1H
